US05922725
N-(3-Iodophenyl)-4-cyano-2-nitroaniline:
To a solution of 4-chloro-3-nitrobenzonitril (1.82 g, 10 mmol) in dry DMF (25 ml) is added triethylamine (1.54 ml, 11 mmol) and 3-iodoaniline (1.2 ml, 10 mmol) and the mixture is heated to 80-100° C. over night. After cooling the mixture is poured into four volumes of ice-water. The precipitate is filtered off, washed with water and dried. This crude product is washed with hot ethanol to yield 2.1 g (58%) of the title compound. Mp. 211-212° C.

reactant | 4-chloro-3-nitrobenzonitril | 10 mmol, 1.82 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | triethylamine | 11 mmol, 1.54 ml | C(C)N(CC)CC | C6H15N
reactant | 3-iodoaniline | 10 mmol, 1.2 ml | IC=1C=C(N)C=CC1 | C6H6IN
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-(3-Iodophenyl)-4-cyano-2-nitroaniline | 2.1 g, 58% | IC=1C=C(C=CC1)NC1=C(C=C(C=C1)C#N)[N+](=O)[O-] | C13H8IN3O2
